US04689330
A mixture of 14 parts of N-(2-hydroxyphenyl)-N'-(4-pyridinylmethyl)thiourea, 20 parts of mercury(II) oxide, 1 part of sulfur, 160 parts of 2-propanol and 160 parts of acetonitrile was stirred and refluxed for 14 hours. The reaction mixture was filtered over diatomaceous earth and the filtrate was evaporated. The oily residue was crystallized from acetonitrile, yielding 6.8 parts (56%) of N-(4-pyridinylmethyl)-2-benzoxazolamine; mp. 147.9° C. (intermediate 74).

reactant | N-(2-hydroxyphenyl)-N'-(4-pyridinylmethyl)thiourea | OC1=C(C=CC=C1)NC(=S)NCC1=CC=NC=C1 | C13H13N3OS
reactant | sulfur | [S] | S
reactant | 2-propanol | CC(C)O | C3H8O
catalyst | mercury(II) oxide | [Hg]=O
solvent | acetonitrile | C(C)#N | C2H3N
product | N-(4-pyridinylmethyl)-2-benzoxazolamine | 56% | N1=CC=C(C=C1)CNC=1OC2=C(N1)C=CC=C2 | C13H11N3O
